US06656957B1
2-Methyl-6-[2-(pyridin-4-yl)-vinyl]-pyridine
A solution of 2,6-dimethyl pyridine (5.8 ml, and 50 mMol), and pyridine-4-carbaldehyde (4.9 ml, and 52 mMol) in acetic anhydride (9.5 ml) is heated under reflux for 16 hours. The acetic anhydride is then evaporated in vacuo and the residue purified on column chromatography (silica gel 900 g). The column is first eluted with toluene/acetone 4:1 (5 L), then with toluene/acetone 3:1 (5 L) and finally with toluene/acetone 2:1 (15 L). The fractions containing the desired compound are combined, evaporated in vacuo. The solid residue is recrystallized from methylene chloride/diisopropyl ether and 0.956 g of white crystals are isolated. (melting point: 72-73° C.).

reactant | 2,6-dimethyl pyridine | 50 mMol, 5.8 ml | CC1=NC(=CC=C1)C | C7H9N
reactant | pyridine-4-carbaldehyde | 52 mMol, 4.9 ml | N1=CC=C(C=C1)C=O | C6H5NO
solvent | acetic anhydride | 9.5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Methyl-6-[2-(pyridin-4-yl)-vinyl]-pyridine | CC1=NC(=CC=C1)C=CC1=CC=NC=C1 | C13H12N2
